US04578224
Crude 3-methyl-1-(phosphonomethyl)hydantoin (6.54 g) was prepared by the method of Example I from 2.85 g (0.025 mole) of 3-methylhydantoin, 0.8 g (ca 0.025 mole) of paraformaldehyde, 11 ml of anhydrous acetic acid, and 3.5 g (0.024 mole) of phosphorus trichloride. A portion (5.56 g) of the crystalline crude product was dissolved in 10 ml of water, and the solution was basified to pH 10.7 with 20% aqueous sodium hydroxide. To the resulting solution was added 200 ml of 2N sodium hydroxide. The solution obtained was heated at reflux for 24 hours, cooled, weighed and quantitatively assayed by hplc for N-phosphonomethylglycine trisodium salt. The yield was found to be 72% of the theoretical amount.

reactant | 3-methylhydantoin | 0.025 mole, 2.85 g | CN1C(NCC1=O)=O | C4H6N2O2
reactant | paraformaldehyde | ca 0.025 mole, 0.8 g | C=O | CH2O
reactant | phosphorus trichloride | 0.024 mole, 3.5 g | P(Cl)(Cl)Cl | Cl3P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 2N, 200 ml | [OH-].[Na+]
reactant | N-phosphonomethylglycine trisodium salt | [Na+].[Na+].[Na+].P(=O)(O)(O)CNCC(=O)[O-].P(=O)(O)(O)CNCC(=O)[O-].P(=O)(O)(O)CNCC(=O)[O-]
solvent | water | 10 ml | O | H2O
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
product | 3-methyl-1-(phosphonomethyl)hydantoin | 6.54 g | CN1C(N(CC1=O)CP(=O)(O)O)=O | C5H9N2O5P
